US06455528B1
(1) 4-Nitromesitylenic Acid
To a solution of chromic anhydride (40 g) in acetic acid (450 ml) was added a solution of nitromesitylene (20 g) in acetic acid (50 ml) at 65-70° C. over 20 min. This reaction mixture was stirred at 65-70° C. for 30 min and isopropyl alcohol (45 ml) was added. This reaction mixture was further stirred at 50° C. for 30 min. Water was added to the reaction mixture to make the total amount 500 ml and the mixture was ice-cooled. The precipitated crystals were collected by filtration to give the title compound (13 g) as pale-green crystals.

reactant | nitromesitylene | 20 g | [N+](=O)([O-])C1=C(C=C(C=C1C)C)C | C9H11NO2
reactant | isopropyl alcohol | 45 ml | C(C)(C)O | C3H8O
reactant | Water | O | H2O
solvent | acetic acid | 450 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-Nitromesitylenic Acid | 13 g | [N+](=O)([O-])C1=C(C=C(C=C1C)C(=O)O)C | C9H9NO4
